US09169212B2
To a mixture of tert-butyl N-(2-hydroxypropyl)carbamate (5.00 g, 28.54 mmol, 1.00 eq) in DMF (100.00 mL), was added NaH (2.51 g, 62.79 mmol, 2.20 eq) in one portion at 0° C. under N2. The mixture was stirred at 0° C. for 1 hr, then 3-chloro-2-(chloromethyl)prop-1-ene (3.57 g, 28.54 mmol, 1.00 eq) was added to the mixture, the mixture was stirred at 0° C. for 4 hr. TLC showed the reaction was completed. The mixture was poured into water (100 mL) and stirred for 5 min. The aqueous phase was extracted with ethyl acetate (100 mL*2). The combined organic phase was washed with saturated brine (100 mL*2), dried with anhydrous Na2SO4, filtered and concentrated in vacuum. The residue was purified by silica gel chromatography (Petroleum ether/Ethyl acetate=10/1) to afford tert-butyl 2-methyl-6-methylene-1,4-oxazepane-4-carboxylate (2.20 g, 9.68 mmol, 33.91% yield) as yellow oil.

reactant | tert-butyl N-(2-hydroxypropyl)carbamate | 28.54 mmol, 5.00 g, 1.00 eq | OC(CNC(OC(C)(C)C)=O)C | C8H17NO3
reactant | NaH | 62.79 mmol, 2.51 g, 2.20 eq | [H-].[Na+]
reactant | 3-chloro-2-(chloromethyl)prop-1-ene | 28.54 mmol, 3.57 g, 1.00 eq | ClCC(=C)CCl | C4H6Cl2
reactant | water | 100 mL | O | H2O
solvent | DMF | 100.00 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-methyl-6-methylene-1,4-oxazepane-4-carboxylate | 9.68 mmol, 2.20 g, 33.91% yield | CC1OCC(CN(C1)C(=O)OC(C)(C)C)=C | C12H21NO3
